US07566724B2
In the same manner as in Example 1, 2-(2,6-dichlorobenzamido)pent-4-enoic acid methyl ester (43 mg) was reacted with N-(4-iodophenyl)-4-methoxy-N-methylpyrimidin-2-amine (51 mg) to obtain (E)-2-(2,6-dichlorobenzamido)-5-[4-((4-methoxy-pyrimidin-2-yl)-methyl-amino)phenyl]pent-4-enoic acid methyl ester (32 mg). Column chromatography (silica gel, eluent: hexane/ethyl acetate=2/1) was used for purification.

reactant | 2-(2,6-dichlorobenzamido)pent-4-enoic acid methyl ester | 43 mg | COC(C(CC=C)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C13H13Cl2NO3
reactant | N-(4-iodophenyl)-4-methoxy-N-methylpyrimidin-2-amine | 51 mg | IC1=CC=C(C=C1)N(C1=NC=CC(=N1)OC)C | C12H12IN3O
product | (E)-2-(2,6-dichlorobenzamido)-5-[4-((4-methoxy-pyrimidin-2-yl)-methyl-amino)phenyl]pent-4-enoic acid methyl ester | 32 mg | COC(C(C\C=C\C1=CC=C(C=C1)N(C)C1=NC=CC(=N1)OC)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C25H24Cl2N4O4
